US04113940
2,2,2-Trichloroethyl 2-methyl-7-amino-3-cephem-4-carboxylate hydrochloride (3.82 g) was suspended in dichloromethane (30 ml), and then dissolved by adding triethylamine (0.9 g) and dimethylaniline (0.1 g). To the solution was added phenylisocyanate (1.2 g) under stirring and ice-cooling, and the mixture was stirred for 5 hours. 10% Hydrochloric acid was added to the reaction mixture, and the mixture was stirred for 10 minute. The reaction mixture was filtered, and the dichloromethane layer was separated from the filtrate, washed in turn with a saturated sodium bicarbonate aqueous solution and a saturated sodium chloride aqueous solution and dried over magnesium sulfate. The solvent was distilled off to give 2,2,2-trichloroethyl 2-methyl-7-(3-phenylureido)-3-cephem-4-carboxylate (4.2 g), mp 172° to 174° C.

reactant | 2,2,2-Trichloroethyl 2-methyl-7-amino-3-cephem-4-carboxylate hydrochloride | 3.82 g | Cl.CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2N)=O
reactant | triethylamine | 0.9 g | C(C)N(CC)CC | C6H15N
reactant | phenylisocyanate | 1.2 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | Hydrochloric acid | Cl | ClH
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | dimethylaniline | 0.1 g | CN(C1=CC=CC=C1)C | C8H11N
product | 2,2,2-trichloroethyl 2-methyl-7-(3-phenylureido)-3-cephem-4-carboxylate | 4.2 g | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(=O)NC2=CC=CC=C2)=O | C17H16Cl3N3O4S
